US05962678
A precipitated mixture of sweet glycosides containing Dulcoside, 3.6; Stevioside, 60.0%; Rebaudioside C, 7.8%; and Rebaudioside A, 24.8% was prepared in a manner similar to that described above in Example 2 and 5.4 grams were dissolved in 15.0 grams of anhydrous methanol by heating to reflux. For this initial crystallization of the glycosides from methanol it is preferred to use anhydrous methanol for the best yields. By being anhydrous or as free from water as possible the crystalline yield is maximized and the crystallization time is minimized. For example, 0.5% water in the methanol in this initial crystallization will significantly reduce the yield. The resulting initially homogeneous solution began to become turbid within minutes of reflux showing the onset of crystallization. The resulting suspension was allowed to cool to room temperature and after 3 hours the precipitate was filtered by suction and washed with a small amount of about 10 grams of methanol. After drying, the precipitate weighed 2.7 grams and contained Dulcoside, 0.0%; Stevioside 91.6%; Rebaudioside C, 0.48%; and Rebaudioside A, 7.9%. The methanol filtrate was further treated as described in Example 4 below.

reactant | Stevioside | C[C@@]12CCC[C@@]([C@H]1CC[C@]34[C@H]2CC[C@](C3)(C(=C)C4)O[C@H]5[C@@H]([C@H]([C@@H]([C@H](O5)CO)O)O)O[C@H]6[C@@H]([C@H]([C@@H]([C@H](O6)CO)O)O)O)(C)C(=O)O[C@H]7[C@@H]([C@H]([C@@H]([C@H](O7)CO)O)O)O | C38H60O18
reactant | Rebaudioside C | C[C@@H]1[C@H]([C@@H]([C@@H]([C@@H](O1)O[C@@]23CC[C@H]4[C@@]5(CCC[C@@]([C@H]5CC[C@]4(C2)CC3=C)(C)C(=O)O[C@H]6[C@@H]([C@H]([C@@H]([C@H](O6)CO)O)O)O)C)O[C@H]7[C@@H]([C@H]([C@@H]([C@H](O7)CO)O)O[C@H]8[C@@H]([C@H]([C@@H]([C@H](O8)CO)O)O)O)O)O)O | C44H70O22
reactant | water | O | H2O
solvent | methanol | 15.0 grams | CO | CH4O
product | Rebaudioside A | C[C@@]12CCC[C@@]([C@H]1CC[C@]34[C@H]2CC[C@](C3)(C(=C)C4)O[C@H]5[C@@H]([C@H]([C@@H]([C@H](O5)CO)O)O)O[C@H]6[C@@H]([C@H]([C@@H]([C@H](O6)CO)O)O[C@H]7[C@@H]([C@H]([C@@H]([C@H](O7)CO)O)O)O)O)(C)C(=O)O[C@H]8[C@@H]([C@H]([C@@H]([C@H](O8)CO)O)O)O | C44H70O23
